US08877782B2
N—((S)-1-Hydroxymethyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 191, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.65 mmol) was converted, using (S)-(+)-2-amino-1-butanol instead of 2-aminoethyl isopropylether, to the title compound (210 mg, 85%) which was obtained as a white solid. MS: m/e=380.2 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.65 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | (S)-(+)-2-amino-1-butanol | N[C@H](CO)CC | C4H11NO
product | N—((S)-1-Hydroxymethyl-propyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 210 mg, 85% | OC[C@H](CC)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C21H23N3O4
